US09428452B2
N-(2,4-dimethylphenyl)-N-isobutyl-3-(((tetrahydro-2H-pyran-4-yl)methoxy)methyl)benzenesulfonamide
N-(2,4-dimethylphenyl)-3-(hydroxymethyl)-N-isobutylbenzenesulfonamide (40 mg, 0.115 mmol) and sodium hydride (4.14 mg, 0.173 mmol) were dissolved in anhydrous N,N-dimethylformamide (DMF) (3 mL). The solution was stirred for 10 minutes under nitrogen at 20° C. (Tetrahydro-2H-pyran-4-yl)methyl methanesulfonate (49 mg, 0.252 mmol) was added to the solution, which was stirred overnight at 20° C. under nitrogen. The reaction was concentrated under vacuum (Biotage V10) to give the crude product. This was then partitioned between ethyl acetate (10 mL) and water (10 mL). The organic layer was washed with water (5×5 mL), passed through a hydrophobic frit and concentrated in vacuo. The crude product was then dissolved in a minimum of DCM and purified by silica (Si) chromatography using a 0-25% ethyl acetate-cyclohexane gradient. The relevant fractions were combined and condensed to provide the required product, 28 mg. LCMS [LCMS1] Rt 1.46 min, m/z (ES+) 446 (M+H).

reactant | N-(2,4-dimethylphenyl)-3-(hydroxymethyl)-N-isobutylbenzenesulfonamide | 0.115 mmol, 40 mg | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC(=CC=C1)CO)CC(C)C | C19H25NO3S
reactant | sodium hydride | 0.173 mmol, 4.14 mg | [H-].[Na+]
reactant | (Tetrahydro-2H-pyran-4-yl)methyl methanesulfonate | 0.252 mmol, 49 mg | CS(=O)(=O)OCC1CCOCC1 | C7H14O4S
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-(2,4-dimethylphenyl)-N-isobutyl-3-(((tetrahydro-2H-pyran-4-yl)methoxy)methyl)benzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC(=CC=C1)COCC1CCOCC1)CC(C)C | C25H35NO4S
